US03966733
2-Amino-1-[[(o-bromophenyl)thio]methyl]pyrimidinium chloride
To a solution of 14.1 g of 2-aminopyrimidine in 180 ml of xylene is added a solution of 24.0 g of o-bromophenyl chloromethyl sulfide in 40 ml of xylene. The mixture is heated at 90°-95° for about 15 hours to give about 27.3 g of the named compound.

reactant | 2-aminopyrimidine | 14.1 g | NC1=NC=CC=N1 | C4H5N3
reactant | o-bromophenyl chloromethyl sulfide | 24.0 g | ClCSC1=C(C=CC=C1)Br | C7H6BrClS
solvent | xylene | 180 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 40 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-Amino-1-[[(o-bromophenyl)thio]methyl]pyrimidinium chloride | about 27.3 g | [Cl-].NC1=[N+](C=CC=N1)CSC1=C(C=CC=C1)Br | InChI=1S/C11H10BrN3S.ClH/c12-9-4-1-2-5-10(9)16-8-15-7-3-6-14-11(15)13;/h1-7,13H,8H2;1H
